US07847101B2
Preparation 8: Synthesis of 2-Aminobenzothiazole-7-carboxylic acid
To a suspension of 3-thioureidobenzoic acid (1.06 g, 5.41 mmol) in chloroform (25 mL) was added a solution of bromine (0.4 mL, 8.0 mmol) dropwise at room temperature. The resulting mixture was heated under reflux for 3 hrs and allowed to stir at room temperature for 60 hrs. The solvent was evaporated, water was added and the resulting solids were isolated by filtration. The crude product was washed with water and dried to yield 1.03 g (98%) of the title compound as a gray solid.

reactant | 3-thioureidobenzoic acid | 5.41 mmol, 1.06 g | N(C(=S)N)C=1C=C(C(=O)O)C=CC1 | C8H8N2O2S
reactant | bromine | 8.0 mmol, 0.4 mL | BrBr | Br2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Aminobenzothiazole-7-carboxylic acid | 1.03 g, 98% | NC=1SC2=C(N1)C=CC=C2C(=O)O | C8H6N2O2S
